data/oMe_Silver.jsonl
{"reaction_id": "NR-049_1-C_2-CC_3-C(C)(C)C_4-CCCC(C)C","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(C)C(CC)S(C)","O=C(C(C)(C)C)(CCCC(C)C)"],"products_smiles": ["S(C)C(CC)(C(O)(C(C)(C)C)(CCCC(C)C))S(C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)[C-](CC)S(C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(CC)(C([O-])(C(C)(C)C)(CCCC(C)C))S(C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(CC)(C(O)(C(C)(C)C)(CCCC(C)C))S(C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
{"reaction_id": "NR-115_10-c1ccc(F)cc1_1-OC_2-CC_3-c1scnc1_4-CCCC_5-CC(C)C_6-CC_7-Br_8-c1ccccc1_9-c1ccc(C)cc1","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1scnc1)C(O/C(=C(/CC)Br)/O[Si](c1ccccc1)(c1ccc(C)cc1)(c1ccc(F)cc1))(CC(C)C)CCCC)(OC)CC"],"products_smiles": ["C(=C(c1scnc1)C(C(C(=O)O[Si](c1ccccc1)(c1ccc(C)cc1)(c1ccc(F)cc1))(Br)CC)(CC(C)C)CCCC)(OC)CC"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1scnc1)C(C(C(=O)O[Si](c1ccccc1)(c1ccc(C)cc1)(c1ccc(F)cc1))(Br)CC)(CC(C)C)CCCC)(OC)CC","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-228_1-C_2-C_3-F_4-c1ccc(OC)cc1_5-CC","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C)=C(C)(F)","c1ccc(OC)cc1C(=O)OCC"],"products_smiles": ["C(C)1OC1(C)F"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C)1OC1(C)F","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
